US04474964
To 60 ml of anhydrous N,N-dimethylformamide were added 4.00 g of 1-(3-diethylaminopropyl)-3-aminoindazole prepared by the same method as Example 26, 8.98 g of 3-bromopropyldiethylamine hydrobromide and 7.89 g of anhydrous potassium carbonate, and the mixture was stirred for 12 hours at 80° C. After cooling the reaction mixture, the mixture was added with 80 ml of water and extracted with diethyl ether. Then the ether layer was extracted three times with 2N-hydrochloric acid. The hydrochloric acid layer was washed with diethyl ether and the pH of the layer was adjusted to 14 with potassium carbonate. The layer was extracted three times with chloroform. The chloroform layer was dried with anhydrous sodium sulfate and chloroform was removed under reduced pressure. The residue thus obtained was subjected to an alumina-column chromatography (alumina: 200 g) using chloroform as the solvent to give 3.05 g of 1-(diethylaminopropyl)-3-(3-diethylaminopropylamino)indazole in a yield of 52%.

reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | 1-(3-diethylaminopropyl)-3-aminoindazole | 4.00 g | C(C)N(CCCN1N=C(C2=CC=CC=C12)N)CC | C14H22N4
reactant | 3-bromopropyldiethylamine hydrobromide | 8.98 g | Br.BrCCCN(CC)CC
reactant | potassium carbonate | 7.89 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 80 ml | O | H2O
product | 1-(diethylaminopropyl)-3-(3-diethylaminopropylamino)indazole | 3.05 g, yield of 52% | C(C)N(CC)CCCN1N=C(C2=CC=CC=C12)NCCCN(CC)CC | C21H37N5
